US07700637B2
Aqueous NaOH (40 mL of a 15% aqueous solution, 150 mmol) is added to 20 g (86.2 mmol) of 4-hydroxybenzenesulfonic acid sodium salt dihydrate at RT. An additional 20 mL of water is added, and the mixture is warmed slightly to dissolve the salt. Benzyl bromide (19.2 g, 112.1 mmol) in 8 mL of ethanol is then added in several portions. The mixture is heated to reflux. After 30 min, additional 20 mL of water is added, and heating is continued for 3.5 h, followed by continued stirring at RT overnight. After cooling in the refrigerator for 3 h, the solid product is collected by filtration and washed with water (20 mL), ethanol (40 mL), and ether (40 mL) and then dried overnight under vacuum to give 4-benzyloxybenzenesulfonic acid sodium salt.

reactant | NaOH | [OH-].[Na+]
reactant | 4-hydroxybenzenesulfonic acid sodium salt dihydrate | 86.2 mmol, 20 g | O.O.[Na+].OC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | water | 20 mL | O | H2O
reactant | Benzyl bromide | 112.1 mmol, 19.2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 20 mL | O | H2O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 4-benzyloxybenzenesulfonic acid sodium salt | [Na+].C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C13H12O4S.Na/c14-18(15,16)13-8-6-12(7-9-13)17-10-11-4-2-1-3-5-11;/h1-9H,10H2,(H,14,15,16);/q;+1/p-1
